US06232290B1
To a suspension of a mixture of methyl 4-[5-(4-hydroxyphenyl)-1,3,4-thiadiazol-2-yl]benzoate and 4-[5-(4-hydroxyphenyl)-1,3,4-thiadiazol-2-yl]benzoic acid (3.12 g), potassium carbonate (22.07 g) and N,N-dimethylformamide (15 ml) was added 1,5-dibromopentane (15 ml) and the mixture was stirred at 100° C. (bath temperature) for 5 hours. The resulting mixture was neutralized by 0.1N hydrochloric acid and extracted with dichloromethane. The organic layer was washed with brine and dried over magnesium sulfate. The solvents were removed under reduced pressure and the residue was triturated with n-hexane. The solid was collected by filtration and dried to give a crude powder (3.71 g). To the crude powder (2.11 g) was added methanol (100 ml) and sodium methoxide (28% in methanol) (10 ml), and refluxed for 2 hours. Then to the reaction mixture was added sodium methoxide (28% in methanol) (5 ml) and refluxed for 1.5 hours. After cooling, the reaction mixture was added to water and tetrahydrofuran, stirred overnight and adjusted to pH 2 with 4N hydrochloric acid. The resulting precipitate was collected by filtration, washed with acetonitrile and dried under reduced pressure to give 4-[5-[4-(5-methoxy-n-pentyloxy) phenyl]-1,3,4-thiadiazol-2-yl]benzoic acid (1.34 g).

reactant | methyl 4-[5-(4-hydroxyphenyl)-1,3,4-thiadiazol-2-yl]benzoate | OC1=CC=C(C=C1)C1=NN=C(S1)C1=CC=C(C(=O)OC)C=C1 | C16H12N2O3S
reactant | 4-[5-(4-hydroxyphenyl)-1,3,4-thiadiazol-2-yl]benzoic acid | 3.12 g | OC1=CC=C(C=C1)C1=NN=C(S1)C1=CC=C(C(=O)O)C=C1 | C15H10N2O3S
reactant | potassium carbonate | 22.07 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1,5-dibromopentane | 15 ml | BrCCCCCBr | C5H10Br2
reactant | hydrochloric acid | 0.1N | Cl | ClH
reactant | sodium methoxide | 10 ml | C[O-].[Na+]
reactant | sodium methoxide | 5 ml | C[O-].[Na+]
reactant | hydrochloric acid | 4N | Cl | ClH
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | water | O | H2O
solvent | methanol | 100 ml | CO | CH4O
solvent | N,N-dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | 4-[5-[4-(5-methoxy-n-pentyloxy) phenyl]-1,3,4-thiadiazol-2-yl]benzoic acid | 1.34 g | COCCCCCOC1=CC=C(C=C1)C1=NN=C(S1)C1=CC=C(C(=O)O)C=C1 | C21H22N2O4S
